US06140271
5. Preparation of 2,3-Difluoro-4-methylthiobenzoic Acid
A 2.5M solution of butyllithium in hexane (4.5 mL, 11 mmol) was added dropwise with stirring to a solution of 1.00 mL (10.2 mmol) of 1,2-difluorobenzene in 10 mL of dry tetrahydrofuran cooled to -70° C. under a nitrogen atmosphere. After 10 min, 0.80 mL (11 mmol) of dimethyl disulfide was added dropwise with stirring. Another 11 mmol of 2.5M butyllithium was then added and, after 10 min, the reaction mixture was quenched by bubbling a stream of dry carbon dioxide into the solution. The resulting mixture was diluted with water and the mixture was washed with ether and then acidified with 1N aqueous hydrochloric acid. The resulting heavy white precipitate was recrystallized from a mixture of ethyl acetate and heptane to obtain 0.65 g (31 percent of theory) of the title compound as a white solid melting at 214-215° C.

reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 11 mmol, 4.5 mL | CCCCCC | C6H14
reactant | 1,2-difluorobenzene | 10.2 mmol, 1.00 mL | FC1=C(C=CC=C1)F | C6H4F2
reactant | dimethyl disulfide | 11 mmol, 0.80 mL | CSSC | C2H6S2
reactant | butyllithium | 11 mmol, 2.5M | C(CCC)[Li]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,3-Difluoro-4-methylthiobenzoic Acid | FC1=C(C(=S)O)C=CC(=C1F)C | C8H6F2OS
